US05081254
4-[3-(Acetylamino)cyclopentyl]-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester
A solution of 26.4 g (0.2 mol) of monoethyl malonate, 0.1 g of 2,2'-bipyridyl and 350 ml of dry tetrahydrofuran was cooled to -35° under a nitrogen atmosphere and treated dropwise with 80 ml (0.2 mol) of a 2.5 M solution of n-butyl lithium in hexane. After the addition was complete, the reaction mixture was allowed to warm to -5° where it was treated dropwise with 80 ml (0.2 mol) of 2.5 M n-butyl lithium in hexane, titrating the final addition to a pale pink color which persisted for 5 minutes. The mixture was cooled to -78° and treated with a solution of 30.2 g (0.1 mol) of 4-[3-(acetylamino) cyclopentyl]-2,5 difluorobenzoyl chloride in 150 ml of dry tetrahydrofuran. The suspension was stirred at -78° for 45 minutes, then allowed to warm to -35° and poured into a mixture of ice, water, and concentrated hydrochloric acid (17 ml-0.20 mol). The organic phase was separated, washed with water, 5% sodium bicarbonate, dilute hydrochloric acid and water. After drying over magnesium sulfate, the solvent was removed in vacuo to give 31.8 g of the title compound.

reactant | monoethyl malonate | 0.2 mol, 26.4 g | C(CC(=O)[O-])(=O)OCC
reactant | n-butyl lithium | C(CCC)[Li]
reactant | n-butyl lithium | 0.2 mol, 2.5 M, 80 ml | C(CCC)[Li]
reactant | 4-[3-(acetylamino) cyclopentyl]-2,5 difluorobenzoyl chloride | 0.1 mol, 30.2 g | C(C)(=O)NC1CC(CC1)C1=CC(=C(C(=O)Cl)C=C1F)F | C14H14ClF2NO2
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | 2,2'-bipyridyl | 0.1 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[3-(Acetylamino)cyclopentyl]-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 31.8 g | C(C)(=O)NC1CC(CC1)C1=CC(=C(C=C1F)C(CC(=O)OCC)=O)F | C18H21F2NO4
